US05773463
(±)cis-1-(4-Benzyloxyphenoxy)-2-dimethylaminoindane Hydrochloride (E15)
The title compound was prepared in a similar manner to Example 12 from LiAlH4 (769 mg, 20.2 mmol), cis-1-(4-benzyloxyphenoxy)-2-(N-methyl-N-tert-butoxycarbonylamino)indane (900 mg, 2.02 mmol) and tetrahydrofuran (50 ml). After a reaction time of 3 hours the reaction was worked up as previously described and subjected to column chromatography on silica gel eluting with 5% ethanol in chloroform to afford a pale green oil (640 mg) which was converted to the HCl salt and crystallised to afford the title compound as a white solid. m.p. 215°-216° C. dec. (from methanol-diethyl ether).

reactant | LiAlH4 | 20.2 mmol, 769 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | cis-1-(4-benzyloxyphenoxy)-2-(N-methyl-N-tert-butoxycarbonylamino)indane | 2.02 mmol, 900 mg | C(C1=CC=CC=C1)OC1=CC=C(O[C@H]2[C@H](CC3=CC=CC=C23)N(C(=O)OC(C)(C)C)C)C=C1 | C28H31NO4
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | ethanol | C(C)O | C2H6O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (±)cis-1-(4-Benzyloxyphenoxy)-2-dimethylaminoindane Hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(O[C@H]2[C@H](CC3=CC=CC=C23)N(C)C)C=C1 | InChI=1S/C24H25NO2.ClH/c1-25(2)23-16-19-10-6-7-11-22(19)24(23)27-21-14-12-20(13-15-21)26-17-18-8-4-3-5-9-18;/h3-15,23-24H,16-17H2,1-2H3;1H/t23-,24+;/m0./s1
